US04904776
Cefadroxil monomethylformamide solvate (30 g) was slurried in a mixture of methanol (100 ml), isopropyl alcohol (47 ml) and water (13 ml) at 50° C. After 90' at 50° C. the mixture was cooled to 10° C., filtered and washed with acetone to yield 22.9 g of crystalline cefadroxil hemihydrate.

reactant | Cefadroxil monomethylformamide | 30 g | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O.CNC=O
reactant | isopropyl alcohol | 47 ml | C(C)(C)O | C3H8O
reactant | water | 13 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | cefadroxil hemihydrate | 22.9 g | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)N)SC1)C(=O)O.CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)N)SC1)C(=O)O.O | InChI=1S/2C16H17N3O5S.H2O/c2*1-7-6-25-15-11(14(22)19(15)12(7)16(23)24)18-13(21)10(17)8-2-4-9(20)5-3-8;/h2*2-5,10-11,15,20H,6,17H2,1H3,(H,18,21)(H,23,24);1H2/t2*10-,11-,15-;/m11./s1
